US04711958
Hydrogen chloride was passed into a solution of 100 mg of (2RS, 3S)-3-amino-4-cyclohexyl-2-hydroxybutyric acid hydrochloride in 12 ml of isopropyl alcohol with stirring under ice-cooling, and the mixture was heated under reflux for 2 hours. The reaction mixture was evaporated to dryness under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: chloroform/methanol =15/1 by volume), and the eluate was acidified by adding hydrochloric acid. The mixture was evaporated to dryness under reduced pressure to obtain 108 mg of (2RS, 3S)-3-amino-4-cyclohexyl-2hydroxybutyric acid isopropyl ester hydrochloride as a white powder.

reactant | Hydrogen chloride | Cl | ClH
reactant | (2RS, 3S)-3-amino-4-cyclohexyl-2-hydroxybutyric acid hydrochloride | 100 mg | Cl.N[C@H](C(C(=O)O)O)CC1CCCCC1
reactant | isopropyl alcohol | 12 ml | C(C)(C)O | C3H8O
product | (2RS, 3S)-3-amino-4-cyclohexyl-2hydroxybutyric acid isopropyl ester hydrochloride | 108 mg | Cl.C(C)(C)OC(C([C@H](CC1CCCCC1)N)O)=O | InChI=1S/C13H25NO3.ClH/c1-9(2)17-13(16)12(15)11(14)8-10-6-4-3-5-7-10;/h9-12,15H,3-8,14H2,1-2H3;1H/t11-,12?;/m0./s1
